US08138206B2
Production of 5-bromo-2-isopropoxypyridine
5-Bromopyridin-2(1H)-one (5 g, 28.7 mmol) and potassium carbonate (9.93 g, 71.8 mmol) were mixed in dimethyl sulfoxide, and at room temperature, 2-iodoisopropyl (3.73 ml, 37.3 mmol) was added thereto, and stirred at room temperature for 4 hours. The reaction solution was diluted with ethyl acetate, and washed with water and saturated saline in that order. The organic layer was dried with sodium sulfate, and the solvent was evaporated off under reduced pressure. The residue was purified through silica gel column chromatography (eluate: ethyl acetate/hexane=20/80 to 50/50) to obtain the entitled compound (4.72 g, 76%) as a colorless oily substance.

reactant | 5-Bromopyridin-2(1H)-one | 28.7 mmol, 5 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | potassium carbonate | 71.8 mmol, 9.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 5-bromo-2-isopropoxypyridine | 4.72 g, 76% | BrC=1C=CC(=NC1)OC(C)C | C8H10BrNO
